US05057535
A mixture of 1-(4-methoxy-5,6,7,8-tetrahydro-1-naphthyl)-1-butanone (2.50g), paraformaldehyde (0.42g), pyrrolidine hydrochloride (1.51g), and hydrochloric acid (0.2 ml) in isopropyl alcohol (7 ml) was refluxed for 15 hrs. The reaction mixture was evaporated in vacuo to give the residue. The residue was partitioned into water and ethyl ether. The aqueous layer, was extracted, neutralized with ammonia water, and then extracted with ethyl ether. The organic layer was dried over anhydrous magnesium sulfate. The mixture was filtered and the filtrate was evaporated in vacuo to give 1-(4-methoxy-5,6,7,8-tetrahydro-1-naphthyl)-2-ethyl-3-pyrrolidino-1-propanone (2.13 g, Yield: 62.8 %) as an oil.

reactant | 1-(4-methoxy-5,6,7,8-tetrahydro-1-naphthyl)-1-butanone | 2.50g | COC1=CC=C(C=2CCCCC12)C(CCC)=O | C15H20O2
reactant | paraformaldehyde | 0.42g | C=O | CH2O
reactant | pyrrolidine hydrochloride | 1.51g | Cl.N1CCCC1
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
solvent | isopropyl alcohol | 7 ml | C(C)(C)O | C3H8O
product | 1-(4-methoxy-5,6,7,8-tetrahydro-1-naphthyl)-2-ethyl-3-pyrrolidino-1-propanone | 2.13 g, Yield: 62.8 % | COC1=CC=C(C=2CCCCC12)C(C(CN1CCCC1)CC)=O | C20H29NO2
